US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with 4-phenyl-piperidine in ethanol in the presence of N-ethyl-diisopropylamine at 80° C. to yield 2,4-bis-(2-hydroxy-ethylamino)-6-(4-phenyl-piperidin-1-yl)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+383.

reactant | 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCCO | C9H12ClN5O2
reactant | 4-phenyl-piperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
product | 2,4-bis-(2-hydroxy-ethylamino)-6-(4-phenyl-piperidin-1-yl)-pyrimidine-5-carbonitrile | OCCNC1=NC(=C(C(=N1)NCCO)C#N)N1CCC(CC1)C1=CC=CC=C1 | C20H26N6O2
